US04552866
(D) N-[N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester, dihydrochloride (faster isomer)
A solution of 250 mg of N-[N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester (faster isomer) in 3 ml of ethyl acetate was cooled in an ice bath under nitrogen then treated with anhydrous hydrogen chloride gas to saturation. Once the reaction was saturated, the ice bath was removed, the reaction was stoppered, and stirred at ambient temperature. After one hour, the reaction was concentrated to dryness in vacuo, then recrystallized from methanol/ether at room temperature, and refrigerated overnight to afford 155 mg of the title compound as a hydrate with 1.0 mole of water, melting point 220°-223° C., dec.

reactant | N-[N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester | 250 mg | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)O)CC(C)C | C33H56N4O7
reactant | hydrogen chloride | Cl | ClH
reactant | water | 1.0 mole | O | H2O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | N-[N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester, dihydrochloride | 155 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)O)CC(C)C | InChI=1S/C28H48N4O5.2ClH/c1-17(2)13-21(29)24(33)16-30-22(14-18(3)4)26(34)32-25(19(5)6)27(35)31-23(28(36)37-7)15-20-11-9-8-10-12-20;;/h8-12,17-19,21-25,30,33H,13-16,29H2,1-7H3,(H,31,35)(H,32,34);2*1H/t21-,22-,23-,24?,25-;;/m0../s1
